US05504089
1,1,1-Trifluoro-2-(6-phenylcarbonylquinazolin-4-one-2-yl)propan-2-ol
1,1,1-Trifluoro-2-(6-iodoquinazolin-4-one-2-yl)propan-2-ol (0.5 g), tetraphenyltin (0.833 g) and palladium (II) dichloride bis(acetonitrile) (13.5 mg) were added to a mixture of tetrahydrofuran (10 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)pyrimidinone (5 mL). The reaction mixture was heated to 65° C. in a bomb pressurized with carbon monoxide (approximately 6.9 bar) for 16 hours. The green solution was diluted with ethyl acetate and washed (water) three times. The organic layer was dried and evaporated. Chromatography, eluting with ethyl acetate:hexane (gradient 20-30% ethyl acetate in hexane). and trituration with ether gave the title compound as a white solid (70 mg); mp 161°-163° C.; NMR: 12.1 (s,1), 8.40 (s,1), 8.19 (dd,1), 7.54-7.86 (m,7), 1.78 (s,3); MS: m/z=363(M+1). Analysis for C18H13N2O3F3 : Calculated: C, 58.67 ; H, 3.62; N, 7.73; Found: C, 58.54; H, 3.74; N, 7.69.

reactant | 1,1,1-Trifluoro-2-(6-iodoquinazolin-4-one-2-yl)propan-2-ol | 0.5 g | FC(C(C)(O)C1=NC2=CC=C(C=C2C(N1)=O)I)(F)F | C11H8F3IN2O2
reactant | tetraphenyltin | 0.833 g | C1(=CC=CC=C1)[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | carbon monoxide | [C]=O | CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium (II) dichloride bis(acetonitrile) | 13.5 mg | C(C)#N.C(C)#N.[Pd](Cl)Cl
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)pyrimidinone | 5 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 1,1,1-Trifluoro-2-(6-phenylcarbonylquinazolin-4-one-2-yl)propan-2-ol | 70 mg | FC(C(C)(O)C1=NC2=CC=C(C=C2C(N1)=O)C(=O)C1=CC=CC=C1)(F)F | C18H13F3N2O3
